US08729273B2
Preparation 28: Synthesis of 1-(3-formyl-1-isopropyl-indol-5-yl)imidazole-4-carboxylic acid ethyl ester
To anhydrous dichloromethane (30 mL) was added oxalyl chloride (0.03 mL, 0.36 mmol). N,N-dimethylformamide (0.03 mL, 0.36 mmol) was added at 0° C., which was then stirred for 30 min at 0° C. To this solution was added 1-(1-isopropylindol-5-yl)-imidazole-4-carboxylic acid ethyl ester (0.09 g, 0.3 mmol) obtained in Preparation 27, and the mixture was stirred for 1 h at room temperature. The solvent was removed, tetrahydrofuran (30 mL) and 20% aqueous ammonium acetate solution (30 mL) were added to the residue, and the mixture was heated for 30 min while being stirred under reflux. The reaction solution was cooled, ethyl acetate was added, and washed with aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was filtered, washed with ethyl acetate and dried to give the title compound (0.09 g, 92% Yield).

reactant | oxalyl chloride | 0.36 mmol, 0.03 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.36 mmol, 0.03 mL | CN(C=O)C | C3H7NO
reactant | 1-(1-isopropylindol-5-yl)-imidazole-4-carboxylic acid ethyl ester | 0.3 mmol, 0.09 g | C(C)OC(=O)C=1N=CN(C1)C=1C=C2C=CN(C2=CC1)C(C)C | C17H19N3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(3-formyl-1-isopropyl-indol-5-yl)imidazole-4-carboxylic acid ethyl ester | 0.09 g, 92% Yield | C(C)OC(=O)C=1N=CN(C1)C=1C=C2C(=CN(C2=CC1)C(C)C)C=O | C18H19N3O3
